US08536187B2
A mixture of crude (R)—N-tert-butyl-4-(1-(6-(4-fluorophenyl)-4-hydroxypyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide (670 mg), TFA (5 ml) and dichloromethane (1 ml) was stirred at room temperature overnight. Solvents were removed under vacuum. To the residue was added a mixture of acetonitrile (5 ml) and water (50 ml) with vigorous stirring whereupon some oily material was formed. The mixture was diluted by EtOAc, neutralized by adding sat. aq. NaHCO3 and extracted with EtOAc. The organic layer was dried and concentrated. The residue was dissolved in EtOAc (40 ml) and dichloromethane (20 ml) was added slowly, followed by hexanes (5 ml). The resulting solid was collected to give 328 mg (R)-4-(1-(6-(4-fluorophenyl)-4-hydroxypyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide. The filtrate was concentrated and purified by reverse phase HPLC (eluting by ACN/H2O+0.1% TFA) to give 200 mg (R)-4-(1-(6-(4-fluorophenyl)-4-hydroxypyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide.

reactant | (R)—N-tert-butyl-4-(1-(6-(4-fluorophenyl)-4-hydroxypyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide | 670 mg | C(C)(C)(C)NS(=O)(=O)C1=CC=C(C=C1)[C@@H](C)NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)O | C25H26FN5O3S
reactant | TFA | 5 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | dichloromethane | 1 ml | ClCCl | CH2Cl2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-4-(1-(6-(4-fluorophenyl)-4-hydroxypyrido[3,2-d]pyrimidin-2-ylamino)ethyl)benzenesulfonamide | 328 mg | FC1=CC=C(C=C1)C=1C=CC=2N=C(N=C(C2N1)O)N[C@H](C)C1=CC=C(C=C1)S(=O)(=O)N | C21H18FN5O3S
